US07622583B2
2-Chloro-3-[5-chloro-3-(4-chloro-3-trifluoromethyl- benzenesulfonylamino)-pyridine-2-carbonyl]-N-methyl-benzamide.
To a vial containing 2-chloro-3-[5-chloro-3-(4-chloro-3-trifluoromethylbenzene-sulfonylamino)-pyridine-2-carbonyl] benzoic acid (24 mg, 0.04 mmol) were added HATU (75 mg, 0.2 mmol), DMF (1 mL), a 2.0 M solution of MeNH2 in THF (0.3 mL, 0.6 mmol), and (i-Pr)2NEt (35 μL, 0.2 mmol). The solution was maintained at room temperature for 15 h. EtOAc (20 mL) was added, and the organic phase washed with saturated aqueous NaCl (2×10 mL) and dried over MgSO4. The volatiles were removed in vacuo, and the resulting residue was purified by preparative HPLC (20→95% gradient of MeCN-H2O with 0.1% TFA). The pure fractions were lyophilized to afford the title compound (5 mg, 5% yield): HPLC retention time=2.69 minutes. MS (ES) [M+H]+ expected 566.0, found 565.9. 1H NMR (400 MHz, CDCl3) δ 10.98 (s, 1 H), 8.17-8.21 (m, 3H), 8.00 (dd, J=2.4, 8.8 Hz, 1 H), 7.65-7.69 (m, 2 H), 7.41 (t, J=7.2 Hz, 1 H), 7.30 (dd, J=1.6, 7.2 Hz, 1 H), 6.01 (bs, 1 H), 3.01 (d, J=5.2 Hz, 3H).

reactant | 2-chloro-3-[5-chloro-3-(4-chloro-3-trifluoromethylbenzene-sulfonylamino)-pyridine-2-carbonyl] benzoic acid | 0.04 mmol, 24 mg | ClC1=C(C(=O)O)C=CC=C1C(=O)C1=NC=C(C=C1NS(=O)(=O)C1=CC(=C(C=C1)Cl)C(F)(F)F)Cl | C20H10Cl3F3N2O5S
reactant | HATU | 0.2 mmol, 75 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | MeNH2 | CN | CH5N
reactant | THF | 0.6 mmol, 0.3 mL | C1CCOC1 | C4H8O
reactant | (i-Pr)2NEt | 0.2 mmol, 35 μL | CCN(C(C)C)C(C)C | C8H19N
solvent | EtOAc | 20 mL | CCOC(=O)C | C4H8O2
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
product | 2-Chloro-3-[5-chloro-3-(4-chloro-3-trifluoromethyl- benzenesulfonylamino)-pyridine-2-carbonyl]-N-methyl-benzamide | 5 mg, 5% yield | ClC1=C(C(=O)NC)C=CC=C1C(=O)C1=NC=C(C=C1NS(=O)(=O)C1=CC(=C(C=C1)Cl)C(F)(F)F)Cl | C21H13Cl3F3N3O4S
